US04059640
To a glass-lined, stainless steel microreactor were charged 2 ml of benzyl alcohol, 1 ml of trimethylamine, and carbon monoxide (900 psi). The reactor was shaken 5 hours at 200° C. A large yield of benzyldimethylamine was obtained.

reactant | benzyl alcohol | 2 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | trimethylamine | 1 ml | CN(C)C | C3H9N
reactant | carbon monoxide | [C]=O | CO
product | benzyldimethylamine | C(C1=CC=CC=C1)N(C)C | C9H13N
